US07202245B2
Solid LAH (8 mg) was added to a solution of 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid-methoxy-methyl-amide (50 mg) in THF at −78° C. After 80 min., the solution was warmed to 23° C. Portions of water (40 μL), 15% aqueous sodium hydroxide solution (40 μL), and water (180 μL) were added sequentially. The resulting mixture was diluted with EtOAc, and was then dried over sodium sulfate and filtered. Concentration afforded 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carbaldehyde as a white solid. MS (M+H)+=286.4.

reactant | LAH | 8 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid-methoxy-methyl-amide | 50 mg | CON(C(=O)C=1C=C2N=C(C=3N(C2=CC1)C(=NN3)OC)NC(C)C)C | C16H20N6O3
reactant | water | 40 μL | O | H2O
reactant | sodium hydroxide | 40 μL | [OH-].[Na+]
reactant | water | 180 μL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carbaldehyde | C(C)(C)NC=1C=2N(C3=CC=C(C=C3N1)C=O)C(=NN2)OC | C14H15N5O2
